US05504097
Step b) 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzaldehyde oxime
In to a solution of 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzaldehyde (6.5 g, 22.2 mmol) in ethanol (300 mL) were added hydroxylamine hydrochloride (4.62 g, 66.55 mmol) and a solution of sodium acetate (7.27 g, 82.7 mmol) in H2O (40 mL). The mixture was stirred at room temperature for 12 h, then poured into H2O, acidified with 1N HCl and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and crystallization from acetone/ether/hexane, gave a white solid (6.1 g, 89% yield, m.p. 192°-193° C.). Analysis for: C18H16N2O3Calc'd: C, 70.12; H, 5.23; N, 9.09 Found: C, 70.31; H, 5.27; N, 8.82

reactant | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzaldehyde | 22.2 mmol, 6.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=O)C=C1 | C18H15NO3
reactant | hydroxylamine hydrochloride | 66.55 mmol, 4.62 g | Cl.NO
reactant | sodium acetate | 82.7 mmol, 7.27 g | C(C)(=O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | H2O | 40 mL | O | H2O
product | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzaldehyde oxime | 6.1 g, 89% yield | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=NO)C=C1 | C18H16N2O3
